US04315928
A mixture of 5.25 g (0.05 mole) of S-methyl-N-hydroxythioacetimidate, 7.9 g of N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride, and 5.1 g of triethylamine in 75 ml of tetrahydrofuran was stirred and heated at 40°-60° C. for 3 hrs. and then at 25° C. for 8 hrs. The solvent was removed in vacuo, and the residue was taken up in chloroform. This solution was extracted with water and 10% potassium carbonate, dried (MgSO4) and then was concentrated in vacuo. The crude syrupy residue obtained was purified by column chromatography on silica gel to give 1.6 g of S-methyl N-[N'-methyl-N'-(dimethylaminosulfenyl)-carbamoyloxy]thioacetimidate, a yellow syrup.

reactant | S-methyl-N-hydroxythioacetimidate | 0.05 mole, 5.25 g | C[SH-]C(C)=NO
reactant | N-methyl-N-(dimethylaminosulfenyl)carbamoyl fluoride | 7.9 g | CN(C(=O)F)SN(C)C | C4H9FN2OS
reactant | triethylamine | 5.1 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | S-methyl N-[N'-methyl-N'-(dimethylaminosulfenyl)-carbamoyloxy]thioacetimidate | 1.6 g | CN(C(=O)ON=C(C)SC)SN(C)C | C7H15N3O2S2
